US09328061B2
(E)-P,P-Diphenyl-N-(1-tosylhex-2-en-1-yl)phosphinic amide (S5)
The title compound is synthesized following a previously reported procedure7 from P,P-diphenylphosphinic amide (2.17 g, 10.0 mmol, 1.00 equiv.), (E)-hex-2-enal (2.31 mL, 20.0 mmol, 2.00 equiv.), and p-toluenesulfinic acid (2.34 g, 15.0 mmol, 1.50 equiv.) to obtain S5 as white solid (3.22 g, 7.10 mmol, 71% yield). M.p.=138-139° C. IR (neat): 3177 (w, br), 2959 (w), 2933 (w), 2870 (w), 1661 (m), 1596 (w), 1437 (m), 1300 (m), 1281 (m), 1214 (m), 1185 (s), 1170 (m), 1138 (m), 1125 (s), 1106 (m), 1083 (m), 955 (m), 894 (m), 752 (m), 726 (s), 693 (s), 662 (m), 583 (s), 568 (m), 536 (s) cm−1; 1H NMR (400 MHz, CDCl3): δ 7.79-7.71 (4H, m), 7.59 (2H, d, J=8.4 Hz), 7.59-7.54 (2H, m), 7.50-7.43 (4H, m), 7.23 (2H, d, J=8.0 Hz), 5.90 (1H, ddd, J=13.6, 11.6, 9.6 Hz), 5.31 (1H, t, J=10.0 Hz), 4.73 (1H, dd, J=14.0, 10.4 Hz), 3.28 (1H, app td, J=10.8, 3.6 Hz), 2.42 (3H, s), 1.97-1.88 (1H, m), 1.52-1.32 (2H, m), 1.20-1.10 (1H, m), 0.82 (3H, t, J=7.2 Hz); 13C NMR (100 MHz, CDCl3): δ 144.3, 134.7, 132.8, 132.6 (d, J=2.9 Hz), 132.5 (d, J=2.9 Hz), 132.2 (d, J=10.1 Hz), 131.9 (d, J=10.1 Hz), 131.4 (d, J=128.0 Hz), 131.1 (d, J=128.0 Hz), 129.6, 129.2, 128.9 (d, J=12.9 Hz), 128.9 (d, J=13.0 Hz), 101.9 (d, J=9.9 Hz), 67.6, 29.7, 21.8, 20.0, 13.7.

reactant | P,P-diphenylphosphinic amide | 10.0 mmol, 2.17 g, 1.00 equiv. | C1(=CC=CC=C1)P(N)(=O)C1=CC=CC=C1 | C12H12NOP
reactant | (E)-hex-2-enal | 20.0 mmol, 2.31 mL, 2.00 equiv. | C(\C=C\CCC)=O | C6H10O
reactant | p-toluenesulfinic acid | 15.0 mmol, 2.34 g, 1.50 equiv. | C1(=CC=C(C=C1)S(=O)O)C | C7H8O2S
product | (E)-P,P-Diphenyl-N-(1-tosylhex-2-en-1-yl)phosphinic amide | C1(=CC=CC=C1)P(NC(\C=C\CCC)S(=O)(=O)C1=CC=C(C)C=C1)(=O)C1=CC=CC=C1 | C25H28NO3PS
